US09120822B2
Quinolin-3-ol (500 mg, 3.44 mmol, 1.0 eq) is added at room temperature to a stirred solution of sodium hydroxide (1.6 g, 40.0 mmol, 11.6 eq) in chloroform (1 mL) and water (10 mL). After 2 hours stirring at 100° C., the reaction mixture is extracted with dichloromethane (3×20 mL) and water (20 mL) and the pH is adjusted to 4 by the addition of a 1N hydrochloric acid aqueous solution. The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: dichloromethane:methanol, 200:1, v/v) to afford 3-hydroxy-quinoline-4-carbaldehyde as a yellow solid (60 mg, 10% yield).

reactant | Quinolin-3-ol | 3.44 mmol, 500 mg, 1.0 eq | N1=CC(=CC2=CC=CC=C12)O | C9H7NO
reactant | sodium hydroxide | 40.0 mmol, 1.6 g, 11.6 eq | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 10 mL | O | H2O
product | 3-hydroxy-quinoline-4-carbaldehyde | 60 mg, 10% yield | OC=1C=NC2=CC=CC=C2C1C=O | C10H7NO2
